US08975261B2
Tert-butyl 3-(2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)piperidine-1-carboxylate (RR2)
To tert-butyl 5-(2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)-3,6-dihydropyridine-1(2H)-carboxylate (RR1) (50 mg, 0.10 mmol) in ethanol (2 mL) was carefully added 10% palladium on carbon (10.6 mg, 0.01 mmol) under N2. The reaction mixture was evacuated and backfilled three times with hydrogen via balloon and then stirred overnight at room temperature. Upon completion, the mixture was filtered through celite washing with methanol and concentrated in vacuo to afford the title compound. 1H NMR (500 MHz, DMSO): δ 8.77 (1 H, d, J=4.5 Hz), 8.12 (3 H, d, J=9.4 Hz), 7.64 (1 H, m), 7.24 (2 H, s), 4.53 (m, 2 H), 4.26 (m, 2 H), 3.77 (s, 3 H), 3.49-3.40 (m, 3 H), 2.27 (s, 2 H), 2.24-2.19 (m, 1 H), 1.99 (m, 1 H), 1.80 (s, 1 H), 1.41 (s, 9 H), 1.23-1.15 (m, 2 H), 1.08 (dt, J=8.7, 4.6 Hz, 1 H); HRMS m/z (M+H) 491.2654 found, 491.2653 required.

reactant | tert-butyl 5-(2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 0.10 mmol, 50 mg | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC2=CC=CN=C2C=C1C1=CCCN(C1)C(=O)OC(C)(C)C | C28H32N4O4
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.01 mmol, 10.6 mg | [Pd] | Pd
product | Tert-butyl 3-(2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)piperidine-1-carboxylate | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC2=CC=CN=C2C=C1C1CN(CCC1)C(=O)OC(C)(C)C | C28H34N4O4
